US05459270
3,5-Dimethyl benzyl glycolic acid (5.59 g) was cooled to 0° C. Thionyl chloride (5 ml) was added and the stirred solution was refluxed for 2 h. The solvent was removed in vacuo to afford 3,5-dimethyl benzyl glycolic acid chloride as an oil.

reactant | 3,5-Dimethyl benzyl glycolic acid | 5.59 g | CC=1C=C(CC(C(=O)O)O)C=C(C1)C | C11H14O3
reactant | Thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 3,5-dimethyl benzyl glycolic acid chloride | CC=1C=C(CC(C(=O)Cl)O)C=C(C1)C | C11H13ClO2
